US07745229B2
This example illustrates the fluorogenic conjugation of 7-diethylamino-3-azidocoumarin and phenylacetylene to form 7-diethylamino-3-(4-phenyl-[1,2,3]triazol-1-yl)-chromen-2-one.

reactant | 7-diethylamino-3-azidocoumarin | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)N=[N+]=[N-])CC | C13H14N4O2
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 7-diethylamino-3-(4-phenyl-[1,2,3]triazol-1-yl)-chromen-2-one | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)N1N=NC(=C1)C1=CC=CC=C1)CC | C21H20N4O2
